US04378314
Trans 3-formyloxymethyl-4-triphenylmethylthio-2-azetidinone
To a cold (dry ice-acetone bath, -78° C.) solution of trans 1-(t-butyldimethylsilyl)-3-hydroxymethyl-4-tritylthio-2-azetidinone (4.89 g, 10 mmol) in tetrahydrofuran (15 ml) was added dropwise 1.6 M n-BuLi (8.2 mmol). The red solution was stirred in a cold bath for 25 min and then treated dropwise with a solution of paranitrobenzylchloroformate (2.6 g, 12 mmol). Stirring was continued for 2 h. The reaction mixture was partitioned between ammonium chloride and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate (2×10 ml). The organic layers were combined and washed with brine, dried (MgSO4), and evaporated in vacuo. The residual oil was chromatographed on a silica gel column (70 g). Elution with benzene gave the title compound 4.0 g (60%) as an amorphous solid. ir νmax (CDCl3) 1750, 1610 cm-1 1 Hmr (CDCl3) δ: 8.40 (2H, d, J=9), 7.45 (17H, m), 5.22 (2H, s, benzyl), 4.4 (1H, d, J=1.5, H-4), 4.05 (1H, dd, J=14, J=4.5, H-1'), 3.28 (1H, m, H-3), 3.18 (1H, dd, J=14, J=4, H=1'), 0.95 (9H, s, t-Bu) and 0.32 ppm (6H, s, CH3).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | trans 1-(t-butyldimethylsilyl)-3-hydroxymethyl-4-tritylthio-2-azetidinone | 10 mmol, 4.89 g | [Si](C)(C)(C(C)(C)C)N1C([C@H]([C@@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO)=O | C29H35NO2SSi
reactant | n-BuLi | 8.2 mmol, 1.6 M | [Li]CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Trans 3-formyloxymethyl-4-triphenylmethylthio-2-azetidinone | 4.0 g, 60% | C(=O)OC[C@@H]1C(N[C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H21NO3S
